US07425723B2
Synthesis of bis(4-chlorophenyl)(4-octylphenyl)amine
4-Octylaniline (5.00 g, 244.4 mmol), 18-crown-6 (1.29 g, 4.9 mmol), K2CO3 (27.64 g, 194.8 mmol), 1-chloro-4-iodobenzene (14.51 g, 60.9 mmol, copper (6.19 g, 97.4 mmol), and 1,2-dichlorobenzene (100 mL) were added in a 250 mL flask with a condenser connected to a Dean Stark apparatus. The mixture was heated to reflux for 24 hours under argon. The reaction mixture was then cooled to room temperature, diluted with dichloromethane, and filtered. After removal of solvent by distillation, the product was purified using silica gel column chromatography using hexane as eluant. The yield was 4.18 g (40.3%).

reactant | 4-Octylaniline | 244.4 mmol, 5.00 g | C(CCCCCCC)C1=CC=C(N)C=C1 | C14H23N
reactant | 18-crown-6 | 4.9 mmol, 1.29 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | K2CO3 | 194.8 mmol, 27.64 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-chloro-4-iodobenzene | ClC1=CC=C(C=C1)I | C6H4ClI
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | copper | 97.4 mmol, 6.19 g | [Cu] | Cu
solvent | 1,2-dichlorobenzene | 100 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | bis(4-chlorophenyl)(4-octylphenyl)amine | ClC1=CC=C(C=C1)N(C1=CC=C(C=C1)CCCCCCCC)C1=CC=C(C=C1)Cl | C26H29Cl2N
